US04761420
The N-protected diester is then mono-saponified, e.g., by heating with an alkali metal hydroxide or alkoxide (for example, NaOH, KOH, t-BuOK) or an alkali metal carbonate (for example K2CO3) in a water miscible solvent containing 10-45% water (preferably MeOH containing 15-40% water) at reflux temperature (or between 50° C. and reflux temperature for solvents other than MeOH) for 10 to 24 hours to yield an N-protected mono-ester. For example, 1-(2-methoxyethoxy)methyl-2,6-dimethyl-3,5-di(carbomethoxy)-4-(3-nitrophenyl)-1,4-dihydropyridine in 20% H2O/MeOH is heated at reflux with aqueous KOH for 16 hours to yield racemic (RS)-1-(2-methoxyethoxy)methyl-2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine ((RS)-18). (Scheme VI, Step 2)

reactant | 1-(2-methoxyethoxy)methyl-2,6-dimethyl-3,5-di(carbomethoxy)-4-(3-nitrophenyl)-1,4-dihydropyridine | COCCOCN1C(=C(C(C(=C1C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C21H26N2O8
reactant | KOH | [OH-].[K+]
solvent | H2O MeOH | O.CO
product | racemic (RS)-1-(2-methoxyethoxy)methyl-2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-carboxy-1,4-dihydropyridine | COCCOCN1C(=C(C(C(=C1C)C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C20H24N2O8
